US08183289B2
Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-ethylphenyl)acetate (10 mg, 0.0215 mmol) was diluted with dioxane (500 μL) followed by the addition of NaOH (0.0429 ml, 0.215 mmol) and 5 drops of water. After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl, and the layers were separated. The organic layer was dried over MgSO4, filtered and concentrated. The crude material was purified by silica gel chromatography eluting with 10% MeOH/DCM to yield 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-ethylphenyl)acetic acid (2 mg, 21.3% yield). (400 MHz, CD3Cl3, CD3OD) 7.65 (d, 2H), 7.30 (d, 2H), 7.10-7.25 (m, 4H), 6.90 (m, 3H), 3.62 (m, 2H), 3.40 (s, 1H), 2.90 (t, 2H), 2.55 (q, 2H), 1.15 (t, 3H).

reactant | Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-ethylphenyl)acetate | 0.0215 mmol, 10 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCC)CC)C=C2)C=C1 | C27H28ClNO4
reactant | NaOH | 0.215 mmol, 0.0429 ml | [OH-].[Na+]
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-ethylphenyl)acetic acid | 2 mg, 21.3% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)CC)C=C2)C=C1 | C25H24ClNO4
